US09382228B2
A 0° C. suspension of NaH (60% in mineral oil, 0.644 g, 16.09 mmol) (pre-washed with hexanes, 2×) in THF (10 mL) was treated slowly with a solution of methyl 1-hydroxycyclopentanecarboxylate (1.45 g, 10.06 mmol) in THF (10 mL), stirred at 0° C. for 15 min, treated with iodomethane (1.258 mL, 20.12 mmol), warmed to RT and stirred overnight. The mixture was poured into satd. NH4Cl, extracted with EtOAc (3×) and the combined organics were washed with brine, dried over Na2SO4 and concentrated to dryness to afford methyl 1-methoxycyclopentanecarboxylate (1.0 g, 63%). 1H NMR (400 MHz, CDCl3): δ 3.76 (s, 3H), 3.24 (s, 3H), 1.98-1.96 (m, 4H), 1.76-1.74 (m, 4H).

reactant | NaH | 16.09 mmol, 0.644 g | [H-].[Na+]
reactant | methyl 1-hydroxycyclopentanecarboxylate | 10.06 mmol, 1.45 g | OC1(CCCC1)C(=O)OC | C7H12O3
reactant | iodomethane | 20.12 mmol, 1.258 mL | IC | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl 1-methoxycyclopentanecarboxylate | 1.0 g, 63% | COC1(CCCC1)C(=O)OC | C8H14O3
